US08193378B2
1-(chloromethyl)-2-methoxy-4-propylbenzene (1.1 g) was dissolved in DMF (20 mL), and 7-hydroxy-2H-chromene-3-carbaldehyde (975 mg) and K2CO3 (1.15 g) were added thereto, followed by stirring at 80° C. for 1 hour. Further, sodium iodide (416 mg) was added thereto, followed by stirring at 80° C. for 1 hour. After confirming completion of the reaction, to the reaction liquid was added water to stop the reaction, followed by extraction with EtOAc three times. The organic layer was combined, washed with brine, dried over MgSO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=95:5 to 80:20) to obtain 7-[(2-methoxy-4-propylbenzyl)oxy]-2H-chromene-3-carbaldehyde (1.21 g) as a yellow powder.

reactant | 1-(chloromethyl)-2-methoxy-4-propylbenzene | 1.1 g | ClCC1=C(C=C(C=C1)CCC)OC | C11H15ClO
reactant | 7-hydroxy-2H-chromene-3-carbaldehyde | 975 mg | OC1=CC=C2C=C(COC2=C1)C=O | C10H8O3
reactant | K2CO3 | 1.15 g | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium iodide | 416 mg | [I-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[(2-methoxy-4-propylbenzyl)oxy]-2H-chromene-3-carbaldehyde | 1.21 g | COC1=C(COC2=CC=C3C=C(COC3=C2)C=O)C=CC(=C1)CCC | C21H22O4
